US07109216B2
Part D: 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)-5-fluoromethyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide. 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)-5-fluoromethyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide was obtained by reacting 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-fluoromethyl-1H-imidazole-4-carboxylic acid (0.87 g, 2.18 mmol), diisopropylethylamine (DIPEA) (0.84 mL, 4.80 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (0.99 g, 2.62 mmol) and 1-aminopiperidine (0.28 mL, 2.62 mmol) for 16 hours at room temperature. The resulting mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate, successively washed with aqueous NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated to give a crude solid. This solid was further purified by flash chromatography. 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)-5-fluoromethyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide was obtained in 64% yield, mp 162–163° C.; 1H-NMR (600 MHz, DMSO-d6) δ 1.35–1.41 (m, 2H), 1.61–1.66 (m, 4H), 2.80–2.84 (m, 4H), 5.63 (d, J=48 Hz, 2H), 7.36 (d, J=8 Hz, 2H), 7.44 (dd, J=8 and 2 Hz, 1H), 7.48 (d, J=8 Hz, 2H), 7.55 (d, J=2 Hz, 1H), 7.67 (d, J=8 Hz, 1H), 9.10 (s, 1H); HRMS (C22H21Cl3FN4O) [M+H]+: found m/z 481.0760, calcd 481.0765.

reactant | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-fluoromethyl-1H-imidazole-4-carboxylic acid | 2.18 mmol, 0.87 g | ClC1=CC=C(C=C1)N1C(=NC(=C1CF)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C17H10Cl3FN2O2
reactant | diisopropylethylamine | 4.80 mmol, 0.84 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.62 mmol, 0.99 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-aminopiperidine | 2.62 mmol, 0.28 mL | NN1CCCCC1 | C5H12N2
product | 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)-5-fluoromethyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide | 64% yield | ClC1=CC=C(C=C1)N1C(=NC(=C1CF)C(=O)NN1CCCCC1)C1=C(C=C(C=C1)Cl)Cl | C22H20Cl3FN4O
